US07683060B2
Step 6. 6-(4-bromo-3-fluorophenyl)-3-hydrazino-1,2,4-triazine
A mixture of 6-(4-bromo-3-fluorophenyl)-3-(methylthio)-1,2,4-triazine (1.15 g, 0.00383 mol) and hydrazine hydrate (0.74 mL, 0.015 mol) in ethanol (50 mL) was heated at 90° C. for 20 h. After cooling, the formed precipitate was collected by filtration, and dried in-vacuo to afford the desired product (0.845 g, 77.6%).

reactant | 6-(4-bromo-3-fluorophenyl)-3-(methylthio)-1,2,4-triazine | 0.00383 mol, 1.15 g | BrC1=C(C=C(C=C1)C1=CN=C(N=N1)SC)F | C10H7BrFN3S
reactant | hydrazine hydrate | 0.015 mol, 0.74 mL | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 6-(4-bromo-3-fluorophenyl)-3-hydrazino-1,2,4-triazine | 0.845 g, 77.6% | BrC1=C(C=C(C=C1)C1=CN=C(N=N1)NN)F | C9H7BrFN5
